US04687775
A mixture of 9.6 g (63 mmole) of 2-mercaptobenzimidazole and 7.7 g (62 mmole) of 3-hydroxymethyl-2-pyridinamine was dissolved in 60 ml of 48% aqueous hydrobromic acid and 60 ml of acetic acid and heated to reflux. After being cooled to room temperature, the mixture was poured into water and make alkaline with potassium carbonate. The oil that separated solidified upon addition of diethyl ether to the aqueous mixture. The solid was collected by filtration, washed with portions of diethyl ether and water, and air dried to yield 12.4 g of analytically pure 3-[(1H-benzimidazol-2-ylthio)methyl]-2-pyridinamine hemihydrate, as confirmed by the nmr and infrared spectra and by elemental analysis. [Calcd. for C13H12N4S.1/2H2O: C, 58.84; H, 4.93; N, 21.11; S, 12.08. Found: C, 59.06; H, 4.48; N, 20.82; S, 12.16.]A mixture of 4.0 g (15 mmole) of 3-[(1H-benzimidazol-2-ylthio)methyl]-2-pyridinamine hemihydrate, 1.9 ml (ca. 18 mmole) of 50% aqueous chloroacetaldehyde, and 1.5 g (18 mmole) of sodium bicarbonate in 25 ml of ethanol was stirred at room temperature. After three days the mixture was filtered and the filtrate was concentrated in vacuo. Trituration of the residue from the filtrate with a mixture of water and dichloromethane induced crystallization. The solid was collected, washed sequentially with water and dichloromethane, and air dried to yield 3.0 g of the title compound. Structure assignment was supported by the nmr and infrared spectra and by elemental analysis.

reactant | 2-mercaptobenzimidazole | 63 mmole, 9.6 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 3-hydroxymethyl-2-pyridinamine | 62 mmole, 7.7 g | OCC=1C(=NC=CC1)N | C6H8N2O
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrobromic acid | 60 ml | Br | BrH
solvent | water | O | H2O
product | 3-[(1H-benzimidazol-2-ylthio)methyl]-2-pyridinamine hemihydrate | O.N1C(=NC2=C1C=CC=C2)SCC=2C(=NC=CC2)N.N2C(=NC1=C2C=CC=C1)SCC=1C(=NC=CC1)N | InChI=1S/2C13H12N4S.H2O/c2*14-12-9(4-3-7-15-12)8-18-13-16-10-5-1-2-6-11(10)17-13;/h2*1-7H,8H2,(H2,14,15)(H,16,17);1H2
